US06548448B2
To a solution of 3.73 g (0.0208 mol) of unpurified 4-bromo-pent-4-enoic acid in 3 ml chloroform with 1 drop of N,N-dimethylformamide was added 1.18 ml (0.0162 mol) of thionyl chloride. After this mixture had been heated to 60° C. for 30 minutes, it was added to a solution of 2.46 ml (0.0436 mol) ethanol and 1.97 ml (0.024 mol) pyridine and 13 ml methylene chloride. After stirring for 30 minutes, the reaction mixture was concentrated in vacuo. To the residue was added diethyl ether and water. The resulting mixture was transferred to a separatory funnel where the phases were separated. The isolated organic layer was dried over magnesium sulfate and filtered. The solvent was removed from the filtrate in vacuo to yield 3.5 g of 4-bromo-pent-4-enoic acid ethyl ester as an oil which was purified via vacuum distillation.

reactant | 4-bromo-pent-4-enoic acid | 0.0208 mol, 3.73 g | BrC(CCC(=O)O)=C | C5H7BrO2
reactant | thionyl chloride | 0.0162 mol, 1.18 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 0.0436 mol, 2.46 ml | C(C)O | C2H6O
reactant | pyridine | 0.024 mol, 1.97 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 13 ml | C(Cl)Cl | CH2Cl2
product | 4-bromo-pent-4-enoic acid ethyl ester | 3.5 g | C(C)OC(CCC(=C)Br)=O | C7H11BrO2
